US09029560B2
Preparation of 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoyl azide/3-(4-(1-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C42a)
The title compound was prepared from 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoic acid (CA12) to furnish a mixture of azide and isocyanate, 0.723 g, 72%): 1H NMR (400 MHz, CDCl3) δ 8.56 (two s, 1H), 8.20-8.15 (m, 2H), 7.85-7.74 (m, 2H), 7.39 (dt, J=9.0, 1.0 Hz, 2H), 7.34-7.29 (m, 2H), 3.62-3.38 (m, 2H), 2.77-2.59 (m, 1H), 1.93-1.59 (m, 2H), 0.94-0.83 (m, 3H).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoic acid | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC(=O)O)CC)(F)F | C20H18F3N3O3
reactant | azide | [N-]=[N+]=[N-]
reactant | isocyanate | [N-]=C=O
product | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoyl azide 3-(4-(1-isocyanatobutan-2-yl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC(=O)N=[N+]=[N-])CC)(F)F.N(=C=O)CC(CC)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C20H17F3N6O2.C20H17F3N4O2/c1-2-13(11-18(30)26-28-24)14-3-5-15(6-4-14)19-25-12-29(27-19)16-7-9-17(10-8-16)31-20(21,22)23;1-2-14(11-24-13-28)15-3-5-16(6-4-15)19-25-12-27(26-19)17-7-9-18(10-8-17)29-20(21,22)23/h3-10,12-13H,2,11H2,1H3;3-10,12,14H,2,11H2,1H3
